Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
transfer for heme malignancy
 
Major Surgical or Invasive Procedure:
bone marrow biopsy ___
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
___ PMH of HTN/HLD, T2DM, presented with SOB, admitted to ___ 
for
multiple myeloma

Of note, patient initially presented to ___ with c/o
weeks to months of worsening SOB, poor appetite, unintentional
weight loss. Work there up revealed multiple lab abnormalities
c/f heme malignancy, so patient transferred to ___. Was given
1U pRBC prior to transfer. 

Pt reports that her weight loss has been attributed to decreased
p.o. intake as she has lost her taste for food.  She noted that
she has normal bowel function and denied any constipation.  
Noted
that her other main symptom is shortness of breath which mainly
occurs at rest when lying flat prior to going to sleep.  She
finds it sitting upright helps her breathe, does not cough, has
been without any fever or chills.  Denied any chest pain or
palpitations.  Denied significant dyspnea on exertion.

In the ED, initial vitals: 98.3 67 145/81 16 99% RA. WBC 4.8, 
Hgb
8.0, plt 53, AST 48, LDH 642, Alb 2.8, Tprot 13.2, Ca ___, Mg
1.4, Phos 3.5, CHEM w/ Na 133, Cr 1.1, Trop <0.01, Fibrinogen
180, Abs ret 0.07, INR 1.6, PTT 23.5, pPT16.9, Free ___ 8.2,
FreeLam 411, UA 12.7, 
 
CT Head without contrast:
1. No acute intracranial process within limitations of this
noncontrast study. No evidence of acute intracranial hemorrhage.
2. Multiple ground-glass lytic calvarial lesions likely
attributable to known multiple myeloma.
 
CXR (___):
Low lung volumes. Borderline cardiomegaly. No CHF. No focal
infiltrates or pleural effusions. Mediastinal contour grossly
unremarkable.
IMPRESSION: No acute disease.

___ service was consulted in ED given hypercalcemia,
hyperuricemia, ___, elevated serum protein, performed bone 
marrow
biopsy which revealed packed marrow with ~2% circulating plasma
cells (official report pending). She was given mg, amlodipine,
normal saline, LR, then admitted to ___ service for further
workup of multiple myeloma. 
 
Past Medical History:
Diabetes
Hypertension
Hyperlipidemia 
 
Social History:
___
Family History:
Denies family history of malignancy. Parents passed when she was 
young and she doesn't know their medical history.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
___ 1854 Temp: 97.8 PO BP: 182/76 HR: 63 RR: 18 O2
sat: 99% O2 delivery: RA 
GENERAL: Sitting upright in chair, appears comfortable, no acute
distress, calm
EYES: Pupils equally round and reactive to light, anicteric
sclera
HEENT: Oropharynx clear, moist mucous membranes
NECK: Supple, normal range of motion
LUNGS: Clear to auscultation bilaterally without any wheezes
rales or rhonchi 
CV:  regular rate and rhythm, has systolic murmur left sternal
border, normal distal perfusion, no peripheral edema 
ABD: nontender nondistended normoactive bowel sounds, soft
GENITOURINARY: No Foley or suprapubic tenderness
EXT:  no deformity, normal muscle bulk
SKIN:  warm, dry ,no rash
NEURO:  AOx3, fluent speech
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:  
========================
___ 0730 Temp: 97.9 PO BP: 179/75 HR: 47 RR: 18 O2 sat: 
100%
O2 delivery: RA 
General appearance: well appearing, in no acute distress. 
HEENT: PERRLA. Oropharynx clear with moist mucous membranes.
CV: Regular rate and rhythm, ___ holosystolic murmur loudest in
LUSB with noticeable tricuspid wave
Resp: Lungs clear to auscultation bilaterally.
Abd: soft, nontender, nondistended
Extremities: Warm, no edema
Skin: No rashes.
 
Pertinent Results:
ADMISSION LABS
====================
___ 02:00AM BLOOD WBC-4.8 RBC-2.65* Hgb-8.0* Hct-26.5* 
MCV-100* MCH-30.2 MCHC-30.2* RDW-17.2* RDWSD-60.2* Plt Ct-53*
___ 02:00AM BLOOD Neuts-39 Bands-1 ___ Monos-9 Eos-2 
Baso-1 ___ Metas-1* Myelos-0 Blasts-2* NRBC-12.6* Plasma-2* 
Other-0 AbsNeut-1.92 AbsLymp-2.06 AbsMono-0.43 AbsEos-0.10 
AbsBaso-0.05
___ 02:00AM BLOOD Anisocy-1+* Macrocy-1+* Polychr-1+* RBC 
Mor-SLIDE REVI ___
___ 09:50AM BLOOD ___ 09:50AM BLOOD G6PD-NORMAL
___ 09:50AM BLOOD Ret Aut-3.1* Abs Ret-0.07
___ 02:00AM BLOOD Glucose-92 UreaN-24* Creat-1.1 Na-133* 
K-4.2 Cl-95* HCO3-28 AnGap-10
___ 02:00AM BLOOD ALT-17 AST-48* LD(LDH)-642* AlkPhos-35 
TotBili-1.2
___ 02:00AM BLOOD cTropnT-<0.01
___ 02:00AM BLOOD TotProt-13.2* Albumin-2.8* Globuln-10.4* 
Calcium-12.6* Phos-3.5 Mg-1.4* UricAcd-12.7*
___ 02:00AM BLOOD PEP-ABNORMAL B ___ FreeLam-411* 
Fr K/L-0.02* IFE-MONOCLONAL
___ 02:19PM BLOOD IgG-8404* IgA-17* IgM-6*
___ 09:00PM URINE Hours-RANDOM Creat-158 TotProt-52 
Prot/Cr-0.3*

PERTINENT LABS
====================
___ 01:20AM BLOOD SerVisc-3.6*
___ 01:20AM BLOOD VitB12-1092* Folate-19 Hapto-<10*
___ 01:20AM BLOOD CRP-1.4
___ 01:20AM BLOOD b2micro-14.4*
___ 02:39AM BLOOD freeCa-1.50*

DISCHARGE LABS
====================
___ 12:00AM BLOOD WBC-3.6* RBC-2.69* Hgb-8.0* Hct-25.3* 
MCV-94 MCH-29.7 MCHC-31.6* RDW-18.8* RDWSD-61.8* Plt Ct-24*
___ 12:00AM BLOOD Neuts-44.5 ___ Monos-16.3* 
Eos-0.6* Baso-0.3 NRBC-14.1* Im ___ AbsNeut-1.58* 
AbsLymp-1.22 AbsMono-0.58 AbsEos-0.02* AbsBaso-0.01
___ 12:00AM BLOOD Plt Ct-24*
___ 12:00AM BLOOD Glucose-96 UreaN-16 Creat-0.6 Na-139 
K-3.5 Cl-103 HCO3-28 AnGap-8*
___ 12:00AM BLOOD LD(LDH)-339*
___ 12:00AM BLOOD Calcium-8.2* Phos-1.9* Mg-1.9 UricAcd-4.4

IMAGING
====================

___ CT HEAD W/O CONTRAST
IMPRESSION: 
1. No acute intracranial process within limitations of this 
noncontrast study. No evidence of acute intracranial hemorrhage. 

2. Multiple ground-glass lytic calvarial lesions likely 
attributable to known multiple myeloma. 

___ TTE
CONCLUSION:
The left atrial volume index is SEVERELY increased. The right 
atrium is mildly enlarged. There is normal left ventricular wall 
thickness with a normal cavity size. There is normal regional 
and global left ventricular systolic function. Quantitative 
biplane left ventricular ejection fraction is 65 % (normal 
54-73%). There is no resting left ventricular outflow tract 
gradient. Mildly dilated right ventricular cavity with normal 
free wall motion. Tricuspid annular plane systolic excursion 
(TAPSE) is normal. The aortic sinus diameter is normal for 
gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a normal
descending aorta diameter. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis. There is 
trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid regurgitation. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. IMPRESSION: preserved biventricular systolic function; 
mild pulmonary hypertension
   
___ CHEST (PORTABLE AP)     
IMPRESSION: 
1. No evidence of pneumothorax. 
2. Otherwise, no interval change. 
          
___ SKELETAL SURVEY 
There are lytic lesions within the calvarium, possibly within 
the left T11 pedicle, humeri, pelvis and femora, suspicious for 
multiple myeloma. There is no pathologic fracture. 

PATHOLOGY
====================
___ Cytogenetics, Blood
FISH: POSITIVE for GAIN of 1q, MONOSOMY 13, IGH REARRANGEMENT, 
and MYC
REARRANGEMENT. Numerous interphase peripheral blood cells 
examined after enrichment by magnetic separation had abnormal 
probe signal patterns consistent with an extra copy of 1q, 
monosomy 13, an IGH gene rearrangement, and rearrangement of the 
MYC gene. There was no evidence of deletion of the TP53 gene or 
gain of chromosomes 5, 9 and 15 and a concurrent FISH study has 
excluded the IGH/CCND1 rearrangement (see below). Approximately 
35% of the cells had probe signal patterns consistent with a 
doubled tetraploid form of the abnormal chromosome
complement that harbors these findings.

___ Bone Marrow Biopsy
SPECIMEN: PERIPHERAL BLOOD SMEAR, BONE MARROW ASPIRATE AND CORE 
BIOPSY
DIAGNOSIS: HYPERCELLULAR BONE MARROW WITH MATURING TRILINEAGE 
HEMATOPOIESIS AND INVOLVEMENT BY THE PATIENT'S KNOWN PLASMA CELL 
NEOPLASM; SEE NOTE. Note: CD___ immunohistochemistry highlights 
diffusely distributed plasma cells averaging 90% of the total 
cellularity. Plasma cells are restricted by lambda immunostain. 
Concurrent cytogenetic studies revealed gain of 1q, monosomy 13, 
IGH gene rearrangement, and C-MYC gene earrangement. The 
constellation of morphologic and cytogenetic changes portends an 
aggressive clinical course.

 
Brief Hospital Course:
===================
SUMMARY:
===================
___ female with 2-month history of fatigue, shortness of 
breath, and 40 pound weight loss found with new diagnosis of IgG 
lambda multiple myeloma, R-ISS Stage III. She received 4-day 
dexamethasone and 3 doses of bortezomib before discharge with 
good effect. Plan for outpatient follow-up and continuation of 
treatment.  

====================
TRANSITIONAL ISSUES:
====================
#MM
[ ] Plan for lenalidomide as outpatient for MM
[ ] Start bisphosphonates after tumor debulking for hyperCa
[ ] Please note pt does not want family or workplace to know 
diagnosis, continue engaging with SW

#HTN/Cardiovascular
[ ] Optimize SBPs. Consider workup for 2ndary HTN given 
uncontrolled on 4 medications
[ ] Recheck Cr at ___ visit to ensure stability after restart 
of ACEi
[ ] Restart aspirin 81mg when finished with chemotherapy and no 
longer thrombocytopenic
[ ] Readdress diabetes management (A1c 5.6% ___ after 
losing significant amount of weight with disease
[ ] Consider holding atenolol given low heart rates; HR high ___ 
to ___ on this admission

[ ] Recheck LFTs one week after discharge. Were slightly 
elevated before discharge.

======================
ACUTE MEDICAL ISSUES:
======================
# Multiple myeloma, IgG lambda, R-ISS Stage III, +1q (8;14):
Presented with 2 months of fatigue, dyspnea, and 40-pound weight 
loss, found with new anemia and thrombocytopenia, hyperCa, 
elevated Cr, transferred from ___ for further workup. Lab 
abnormalities together with multiple calvarial bone lytic 
lesions on CT concerning for multiple myeloma, which was 
confirmed on ___ BMBx (packed marrow with circulating plasma 
cells ~2%). Cytogenetics revealed +1q, monosomy 13, IGH/MYC 
rearrangement [t(8;14)(q24;q32)]. SPEP and IFE with monoclonal 
IgG lambda, and UPEP showed monoclonal IgG lambda with BJP 150 
mg/day. K/L ratio 0.02. R-ISS Stage III (40% overall survival 
rate, 29mo median progression-free survival). Skeletal survey 
___ showed diffuse lytic lesions. She received 4-day 
dexamethasone 40mg IV and was initiated on three doses of 
bortezomib, starting ___, with plan for lenalidomide as 
outpatient. There was no evidence of TLS or DIC, and the patient 
remained asymptomatic throughout. Uric acid downtrended from 
12.7 with fluids; G6PD negative, but rasburicase was not given. 
Calcium downtrended from 11.8, and kidney function improved from 
creatinine 1.1 to 0.6 at discharge. She will start 
bisphosphonates as outpatient after tumor debulking for 
hypercalcemia and multiple lytic lesions. She received acyclovir 
400mg BID for infectious prophylaxis, as well as mIVF and 
allopurinol for TLS prophylaxis. In total, she received 3U pRBC 
during her admission and 1U platelets at discharge. Of note, pt 
expressed that she does not want family or her workplace to know 
her diagnosis; Social Work was heavily involved this admission.

# ___:
Creatinine peaked at 1.1, baseline 0.9. Likely prerenal and with 
contribution from multiple myeloma. Her kidney function improved 
with fluids and blood products. Her thiazide and ACE inhibitor 
were restarted at discharge. Her discharge creatinine was 0.6. 
Can recheck Cr at next Oncology apt ___.

# SOB:
Likely due to volume overload. Patient endorsed orthopnea and 
exam with noticeable systolic murmur radiating to carotids, but 
no valvular abnormalities or reduced EF on TTE. TTE also showed 
mild pulmonary hypertension with severely dilated RA likely in 
setting of acute volume overload. Negative trops on admission. 
ECG showing RBBB and LVH. Her dyspnea resolved prior to 
discharge.

# Sinus bradycardia:
HR ___. Asymptomatic. Appears to be chronic, and atenolol 
was held a few doses with HR still < 50. She will be discharged 
to continue her home atenolol given her uncontrolled 
hypertension, but optimal blood pressure and heart rate 
medications should be addressed as outpatient.

======================
CHRONIC MEDICAL ISSUES:
======================

# HTN: 
BP was elevated 158-195/70-80s in ED, SBPs largely in 170s 
during hospitalization. Continued home amlodipine 10mg and 
atenolol 100mg. Home HCTZ 25mg held initially in setting of 
elevated uric acid, and resumed before discharge. Her home 
lisinopril 40mg was held in setting of ___, restarted at 
discharge. For SBP > 185, she was given hydralazine 10mg PRN. 
ECG showed LVH. TTE with normal LV wall thickness. Would 
consider outpatient workup for secondary causes of hypertension 
given on 4 BP meds. 

# Hyperlipidemia:
Continued home atorvastatin 80mg.

# T2DM:
She has a history of diabetes on home metformin 500mg BID which 
was stopped upon admission. However, in the setting of her 
significant weight loss, she required minimal to no insulin in 
the hospital. A1c was 5.6% this admission. Continued to hold 
metformin on discharge. Re-evaluate need for DM mgmt. as an 
outpatient.

========
BUNDLE:
======== 
#HCP/Contact:  Friend ___ is HCP ___
#Code: Full presumed  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. amLODIPine 10 mg PO DAILY 
5. Atenolol 100 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-125 
mg-unit oral DAILY 
8. Aspirin 81 mg PO DAILY 
9. Betamethasone Dipro 0.05% Oint 1 Appl TP Q12H:PRN rash 

 
Discharge Medications:
1.  Acyclovir 400 mg PO BID 
RX *acyclovir 400 mg 1 capsule(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Dexamethasone 20 mg PO ASDIR 
PLEASE TAKE 5 TABLETS ON THE DAY OF VELCADE & 5 TABLETS THE DAY 
AFTER VELCADE 
RX *dexamethasone 4 mg 5 tablet(s) by mouth once a day Disp 
#*200 Tablet Refills:*0 
4.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  amLODIPine 10 mg PO DAILY  
6.  Atenolol 100 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Betamethasone Dipro 0.05% Oint 1 Appl TP Q12H:PRN rash  
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600-125 
mg-unit oral DAILY  
10.  Hydrochlorothiazide 25 mg PO DAILY  
11.  Lisinopril 40 mg PO DAILY  
12.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  
13. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until your doctor tells you to do so

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
Multiple Myeloma

SECONDARY DIAGNOSIS
====================
Hypertension
Diabetes
Hyperlipidemia
Sinus bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were transferred to our hospital and were diagnosed with a 
blood cancer called MULTIPLE MYELOMA.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You received a bone marrow biopsy in the emergency room which 
confirmed your diagnosis of multiple myeloma.
- You began treatment to treat your multiple myeloma.
- You received blood transfusions for low blood counts.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all your medications as prescribed. You will be 
taking two new medications (acyclovir and allopurinol). 
- Please follow-up with your new oncologist, Dr. ___, 
as below

We wish you the best,
Your ___ care team

 
Followup Instructions:
___